US09227978B2
Methyl 4,5-dichloro-2-methoxybenzoate
A mixture of 4,5-dichloro-2-methoxybenzoic acid (8.2 g, 37 mmol) and K2CO3 (11.8 g, 111 mmol) in DMF (100 mL), CH3I (6.3 g, 44 mmol) was added dropwise and the resulting mixture was stirred at room temperature for 16 h. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=10:1) to afford the desired product.

reactant | 4,5-dichloro-2-methoxybenzoic acid | 37 mmol, 8.2 g | ClC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H6Cl2O3
reactant | K2CO3 | 111 mmol, 11.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3I | 44 mmol, 6.3 g | CI | CH3I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Methyl 4,5-dichloro-2-methoxybenzoate | ClC1=CC(=C(C(=O)OC)C=C1Cl)OC | C9H8Cl2O3
